US09034866B2
10-Bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (55 mg) was reacted with tetrahydro-furan-3-ylamine similar to as described in Example 2 to produce crude 10-bromo-9-fluoro-N3-tetrahydrofuran-3-yl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide which was then reacted with 2-Methyl-3-butyne-ol similar to as described in Procedure E to afford 26.1 mg of (±) 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-tetrahydrofuran-3-yl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 443 (M)+. 1H NMR (400 MHz, DMSO) δ 11.60 (d, J=6.1 Hz, 1H), 8.60 (d, J=8.4 Hz, 1H), 8.39 (s, 1H), 7.88 (s, 1H), 7.02 (d, J=10.5 Hz, 1H), 5.48 (s, 1H), 5.06-4.92 (m, 2H), 4.60-4.48 (m, 2H), 4.47-4.33 (m, 1H), 3.89-3.80 (m, 2H), 3.79-3.71 (m, 1H), 3.57 (dd, J=9.0, 3.4 Hz, 1H), 2.25-2.14 (m, 1H), 1.87-1.76 (m, 1H), 1.49 (s, 6H).

reactant | 10-Bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 55 mg | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(N)=O)C(=O)O)C1)F | C13H9BrFN3O4
reactant | tetrahydro-furan-3-ylamine | O1CC(CC1)N | C4H9NO
product | 10-bromo-9-fluoro-N3-tetrahydrofuran-3-yl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC3COCC3)C1)F | C17H16BrFN4O4
